US06960614B2
A solution of [2-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester (4.50 g, 14.0 mmol) in dichloromethane (40 mL) was treated with methylhydrazine (0.78 mL, 14.7 mmol) and the reaction mixture was stirred 6 h at ambient temperature. Diethyl ether (80 mL) was added and the heterogeneous solution was allowed to stand overnight. The precipitate was removed by filtration and was washed with ether (80 mL). The filtrate was further concentrated and the resultant precipitate was filtered and the second filtrate concentrated to afford (2-Aminooxy-ethyl)-methyl-carbamic acid tert-butyl ester (2.83 g) as a viscous oil: 1H NMR (400 MHz, CDCl3) δ 3.73 (t, J=5.2 Hz, 2H), 5.45 (br s, NH2), 3.46 and 3.42 (br s, 2H), 2.86 br s, 3H), 1.25 (br s, 9H); MS (APCI+)=191.1.

reactant | [2-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 14.0 mmol, 4.50 g | C(C)(C)(C)OC(N(C)CCON1C(C2=CC=CC=C2C1=O)=O)=O | C16H20N2O5
reactant | methylhydrazine | 14.7 mmol, 0.78 mL | CNN | CH6N2
reactant | Diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (2-Aminooxy-ethyl)-methyl-carbamic acid tert-butyl ester | 2.83 g | C(C)(C)(C)OC(N(C)CCON)=O | C8H18N2O3
